US04431643
(a) Phenolphthalein indicator (3 drops) was added to a solution of 0-methylhydroxylamine hydrochloride (3.7 g.) in dry methanol (45 ml.). To the solution was dropwise added with stirring at ambient temperature 1 N methanol solution of sodium methoxide (39 ml.) until the color of the solution was changed to purplish red. O-Methylhydroxylamine hydrochloride was added thereto by small portions until the solution was changed to colorless solution. The mixture was stirred for 30 minutes at ambient temperature. After precipitating sodium chloride was filtered off, 2-(4-hydroxyphenyl)glyoxylic acid (6.56 g.) was added to the filtrate and the mixture was stirred for 1 hour at ambient temperature. After methanol was distilled off at low temperature, a saturated sodium chloride aqueous solution was added to the residue. The mixture was adjusted to pH 1 with 10% hydrochloric acid, subjected to salting-out and extracted with ether. The extract was dried over magnesium sulfate. Ether was distilled off at low temperature to give 2-methoxyimino-2-(4-hydroxyphenyl)acetic acid (syn isomer).

reactant | Phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | 0-methylhydroxylamine hydrochloride | 3.7 g | CO[NH3+].[Cl-]
reactant | sodium methoxide | 39 ml | C[O-].[Na+]
reactant | O-Methylhydroxylamine hydrochloride | Cl.CON
solvent | methanol | 45 ml | CO | CH4O
solvent | methanol | 1 N | CO | CH4O
product | 2-methoxyimino-2-(4-hydroxyphenyl)acetic acid | CON=C(C(=O)O)C1=CC=C(C=C1)O | C9H9NO4
